US04610984
4-(4-Chlorobenzoyl)-piperazin-1-yl-acetic acid morpholide hydrochloride
5 g of piperazinoacetic acid morpholide and 4.2 g of chlorobenzoyl chloride are brought together in 50 ml of methylene chloride at 0° C. The mixture is stirred at room temperature for 2 hours and cooled again to 0° C., whereupon a precipitate separates out, and is recrystallised from isopropanol.

reactant | piperazinoacetic acid morpholide | 5 g | N1(CCNCC1)CC(=O)N1CCOCC1 | C10H19N3O2
reactant | chlorobenzoyl chloride | 4.2 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Chlorobenzoyl)-piperazin-1-yl-acetic acid morpholide hydrochloride | Cl.ClC1=CC=C(C(=O)N2CCN(CC2)CC(=O)N2CCOCC2)C=C1 | InChI=1S/C17H22ClN3O3.ClH/c18-15-3-1-14(2-4-15)17(23)21-7-5-19(6-8-21)13-16(22)20-9-11-24-12-10-20;/h1-4H,5-13H2;1H
